US03997535
c. 4-Ethyl-6-fluoro-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid
4-Ethyl-6-fluoro-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester (8 g) and sodium carbonate (0.25 g) in methanol (20 ml) and water (10 ml) were heated under reflux for 2 hours. The methanol was distilled off and the aqueous solution was acidified with hydrochloric acid and the solid was collected. It had m.p. 162.5°-164° (39%).

reactant | 4-Ethyl-6-fluoro-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | 8 g | C(C)N1C(C(=NC2=CC=C(C=C12)F)C(=O)OCC)=O | C13H13FN2O3
reactant | sodium carbonate | 0.25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-Ethyl-6-fluoro-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid | C(C)N1C(C(=NC2=CC=C(C=C12)F)C(=O)O)=O | C11H9FN2O3
